datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([O]C)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([O]C)[O]C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O]C(C)C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C(CC)[NH]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)C1=CC=CC=C1)CC>>CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"[H][O:10]C(C)C(C)C([H])[S][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C([H])[S]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)[H].[O-:21][H]>>CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21][H])C1=CC=CC=C1)[H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C(C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])[H])C>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])C.[Cl-:21] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[O:10]([Na])C(CCC)/C(C)=C([C:20](OC)=[O:21])/O>>[O-:21][C:20]1(OC)[O+:10]([Na])C(CCC)C(C)=C1O 10=20;20,21=21"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC)C1=CC=CC=C1)C>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC)C1=CC=CC=C1)C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O]C([H])C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CC[O:10][H].[H][NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21][H])([O]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)[H].[O-:21]CCCCCC>>CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)[H] 21=20;20,10=10"
"CCCCCCN([C:20]([O-:10])(O[H])[Cl:21])C>>CCCCCCN([C:20](=[O:10])O[H])C.[Cl-:21] 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"CC[O+:10]([K])[C:21]([O-:20])(O[H])OC>>[O:20]=[C:21](O[H])OC.CC[O:10][K] 20=21;21,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C)[NH][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
"[H][S:10]C([H])C(C)C(CC)[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(CC)[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"[O:10]([K])C(CC)C([H])/C(C)=C([H])\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])=C(C)C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S]C)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S]C)[O]C 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C([H])[S]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C([H])[S][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])[O][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])[O]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[O:10]([Na])C([H])C([H])C([H])C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C([H])C([H])C([H])[O+:10]1([Na]) 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C(CC)C(C)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[O]C(CC)C(C)[S]1 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OCCCCCC)C)CC>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OCCCCCC)C)CC 10=20;20,21=21"
"[O-:21][C:20]1([H])[O+:10]([Na])C(C)C(O)C1[H]>>[O:10]([Na])C(C)C(O)C([C:20]([H])=[O:21])[H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"C[O+:10]([Li])[C:21]([O-:20])(O[H])OCC>>[O:20]=[C:21](O[H])OCC.C[O:10][Li] 20=21;21,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
